US07893058B2
Compound 119: (4-(4-Methylpiperazin-1-yl)phenyl)-[5-(5-methyl-1H-pyrazol-4-yl)imidazo[1,2-a]pyrazin-8-yl]amine
In the same way as described for Compound 127, step 4, using 5-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (75 mg, 0.36 mmol), (5-bromoimidazo[1,2-a]pyrazin-8-yl)-(4-(4-methylpiperazin-1-yl)phenyl)amine (70 mg, 0.18 mmol) and Pd(PPh3)4 (52 mg, 0.045 mmol) in dioxane (0.6 mL), DMF (1.33 mL) and 1.5M Na2CO3 (0.97 mL). The residue is chromatographed on silica gel, eluting with DCM followed by 95:5 DCM:NH3 (7M in MeOH), and the fractions containing the desired product are combined and evaporated. The title compound is isolated as a solid. HPLC (254 nm): Rt 1.62 min (98.2%); m/z (APCI) 389 (M+H)+.

reactant | 5-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 0.36 mmol, 75 mg | CC1=C(C=NN1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | (5-bromoimidazo[1,2-a]pyrazin-8-yl)-(4-(4-methylpiperazin-1-yl)phenyl)amine | 0.18 mmol, 70 mg | BrC1=CN=C(C=2N1C=CN2)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19BrN6
solvent | dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 1.33 mL | CN(C)C=O | C3H7NO
solvent | Na2CO3 | 1.5M, 0.97 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.045 mmol, 52 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4-(4-Methylpiperazin-1-yl)phenyl)-[5-(5-methyl-1H-pyrazol-4-yl)imidazo[1,2-a]pyrazin-8-yl]amine | CN1CCN(CC1)C1=CC=C(C=C1)NC=1C=2N(C(=CN1)C=1C=NNC1C)C=CN2 | C21H24N8
